US04939140
D. Ethyl 3-(5-bromobenzothiazol-2-ylmethyl)-4-oxo-3H-phthalazin-1-ylacetate
To a mixture of ethyl 4-oxo-3H-phthalazin-1-ylacetate (11.6 g.) and sodium hydride (288 g; 50% w/w dispersion in mineral oil) in dimethylformamide (150 ml) was added 5-bromo-2-bromomethylbenzothiazole (16.8 g) and the resulting mixture stirred at room temperature for 1 hour. This reaction mixture was poured over ice-water (500 ml.); sufficient 10% HCl was added to adjust the pH to about 4.0 and the precipitated crude solid was collected. This was chromatographed over silica gel to obtain the product (yield: 5.6 g; m.p. 160°-161° C.).

reactant | ethyl 4-oxo-3H-phthalazin-1-ylacetate | 11.6 g | O=C1NN=C(C2=CC=CC=C12)CC(=O)OCC | C12H12N2O3
reactant | sodium hydride | 288 g | [H-].[Na+]
reactant | 5-bromo-2-bromomethylbenzothiazole | 16.8 g | BrC=1C=CC2=C(N=C(S2)CBr)C1 | C8H5Br2NS
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-(5-bromobenzothiazol-2-ylmethyl)-4-oxo-3H-phthalazin-1-ylacetate | BrC=1C=CC2=C(N=C(S2)CN2N=C(C3=CC=CC=C3C2=O)CC(=O)OCC)C1 | C20H16BrN3O3S
